US08278331B2
To a solution of thiophenecarboxylic acid (0.5 g, 3.90 mmol) in tBuOH (10 ml) was added Et3N (0.571 ml, 4.10 mmol) and DPPA (0.883 ml, 4.10 mmol). The solution was heated at 90° C. for 4 hours. The reaction mixture was cooled to RT and the solvent was removed in vacuo. The residue was treated with benzene and then the solution was washed with 5% citric acid, and sat'd NaHCO3. Solid was filtered off and the filtrate was washed with brine. The organic layer was dried (MgSO4), concentrated in vacuo and the residue was purified by silica gel column chromatography (EtOAc/hexanes) to obtain tert-butyl thiophen-2-ylcarbamate (0.39 g, 50% yield). 1H NMR (400 MHz, DMSO-d6): δ 10.4 (brs, 1H), 6.84 (dd, J=1.6, and 5.2 Hz, 1H), 6.75 (dd, J=4.0, and 5.6 Hz, 1H), 6.48 (dd, J=1.6, and 4.0 Hz, 2H), 1.45 (s, 9H); MS (ESI) m/z: 222.0 (M+22+H+).

reactant | thiophenecarboxylic acid | 3.90 mmol, 0.5 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | Et3N | 4.10 mmol, 0.571 ml | CCN(CC)CC | C6H15N
reactant | DPPA | 4.10 mmol, 0.883 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | tBuOH | 10 ml | CC(C)(C)O | C4H10O
product | tert-butyl thiophen-2-ylcarbamate | 0.39 g, 50% yield | S1C(=CC=C1)NC(OC(C)(C)C)=O | C9H13NO2S
